US06235731B1
6) Synthesis of (R)-N-[1-(1,4-benzodioxan-2-ylmethyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
In 1 ml of methanol was dissolved 0.452 g of (R)-N-[1-(1,4-benzodioxan-2-ylmethyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide, followed by addition of an excess of methanolic HCl. The mixture was stirred and concentrated to provide the title compound.

reactant | (R)-N-[1-(1,4-benzodioxan-2-ylmethyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.452 g | O1[C@@H](COC2=C1C=CC=C2)CN2CCC(CC2)CNC(=O)C2=CC1=CN=C3C=CC=C(S2)N31 | C25H26N4O3S
reactant | HCl | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | (R)-N-[1-(1,4-benzodioxan-2-ylmethyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.O1[C@@H](COC2=C1C=CC=C2)CN2CCC(CC2)CNC(=O)C2=CC1=CN=C3C=CC=C(S2)N31 | InChI=1S/C25H26N4O3S.2ClH/c30-25(22-12-18-14-26-23-6-3-7-24(33-22)29(18)23)27-13-17-8-10-28(11-9-17)15-19-16-31-20-4-1-2-5-21(20)32-19;;/h1-7,12,14,17,19H,8-11,13,15-16H2,(H,27,30);2*1H/t19-;;/m1../s1
